US06358954B1
To 10 grams of 2-methyl benzimidazole (75 mM), crushed 25 grams of crushed KOH (450 mM) in 300 ml acetone, methyl iodide (15 grams, 105 mM) was added at a continuous drip for 0.5 hours, at room temperature. Following additional 0.5 hour, water was added, the reaction extracted with dichloromethane, evaporated and chromatographed on silica gel to yield 6 grams (54%) of 1,2-dimethyl benzimidazole as a white solid having a melting point of 102° C.

reactant | 2-methyl benzimidazole | 75 mM, 10 grams | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | KOH | 450 mM, 25 grams | [OH-].[K+]
reactant | methyl iodide | 105 mM, 15 grams | CI | CH3I
reactant | water | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 1,2-dimethyl benzimidazole | 6 grams, 54% | CN1C(=NC2=C1C=CC=C2)C | C9H10N2
